US04382939
3-[2-(Diethylamino)propyl]-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one
Prepared by the method described for Example 59 from 3-[2-(ethylamino)propyl]-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one (3.0 g, 0.010 moles), glacial acetic acid (20 ml), and sodium borohydride (2.3 g, 0.061 moles). Recrystallization from ethanol gave the product (2.0 g) as the dihydrochloride, mp 254° C. (dec.).

reactant | 3-[2-(ethylamino)propyl]-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.010 moles, 3.0 g | C(C)NC(CN1CC2=C(CC1)C1=C(OC2=O)C=C(C=C1)C)C | C18H24N2O2
reactant | sodium borohydride | 0.061 moles, 2.3 g | [BH4-].[Na+]
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 3-[2-(Diethylamino)propyl]-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 2.0 g | C(C)N(C(CN1CC2=C(CC1)C1=C(OC2=O)C=C(C=C1)C)C)CC | C20H28N2O2
